US07718683B2
General Procedure F Exemplified for 4-tert-Butyl-N-{4-chloro-2-[4-methyl-5-(5-methyl-oxazol-4-yl)-4H-[1,2,4]triazol-3-yl]-phenyl}-benzenesulfonamide
A vial was charged with 5-methyl-oxazole-4-carboxylic acid methylamide (71 mg, 0.5 mmol), pyridine (0.12 mL, 1.5 mmol), and anhydrous dichloromethane (2.5 mL). The reaction vessel was cooled to −40° C. and trifluoromethanesulfonyl anhydride (0.11 mL, 0.65 mmol) was added. The reaction was subsequently warmed to −10° C. over 2.5 h and then 4-tert-butyl-N-(4-chloro-2-hydrazinocarbonyl-phenyl)-benzenesulfonamide (191 mg, 0.5 mmol) was added. The reaction was warmed to room temperature stirred an additional 2 h. The solvent was concentrated in vacuo and ethanol (5 mL) and diisopropylamine (0.5 mL) were added and the solution stirred at 90° C. overnight. The following day, the reaction was concentrated in vacuo and the crude material was purified by flash column chromatography (10-100% ethyl acetate and hexane), followed by preparative HPLC (10-90% gradient of MeCN-water) to yield the title compound: MS (ES) M+H expected 486.1, found 486.0.

reactant | 5-methyl-oxazole-4-carboxylic acid methylamide | 0.5 mmol, 71 mg | CNC(=O)C=1N=COC1C | C6H8N2O2
reactant | pyridine | 1.5 mmol, 0.12 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-tert-butyl-N-(4-chloro-2-hydrazinocarbonyl-phenyl)-benzenesulfonamide | 0.5 mmol, 191 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)NN | C17H20ClN3O3S
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | 4-tert-Butyl-N-{4-chloro-2-[4-methyl-5-(5-methyl-oxazol-4-yl)-4H-[1,2,4]triazol-3-yl]-phenyl}-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C1=NN=C(N1C)C=1N=COC1C | C23H24ClN5O3S
